US09212190B2
Sodium hydride (60% dispersion in mineral oil, 62 mg, 1.55 mmol, 30.00 equiv) was treated with tert-butyl trans-N-(4-hydroxycyclohexyl)carbamate (157 mg, 0.73 mmol, 1.40 equiv) in 8 mL of freshly distilled THF for 30 min in a water/ice bath under nitrogen. Then a solution of (12R)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene (200 mg, 0.52 mmol, 1.00 equiv) in 5 mL of THF was added via syringe and the mixture was stirred at room temperature overnight. The reaction was quenched with saturated aqueous NH4Cl and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:4) to give tert-butyl N-(4-[[(12R)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate (200 mg, 68%) as a yellow oil.

reactant | Sodium hydride | 1.55 mmol, 62 mg, 30.00 equiv | [H-].[Na+]
reactant | tert-butyl trans-N-(4-hydroxycyclohexyl)carbamate | 0.73 mmol, 157 mg, 1.40 equiv | O[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | (12R)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene | 0.52 mmol, 200 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1CCC=2SC=3N=CN=C(C3C2C1)Cl | C18H27ClN2OSSi
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl N-(4-[[(12R)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate | 200 mg, 68% | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1CCC=2SC=3N=CN=C(C3C2C1)OC1CCC(CC1)NC(OC(C)(C)C)=O | C29H47N3O4SSi
